US04545995
N,N-Diethyl-4-(2-chlorophenyl)-N-heptyl-2-buten-1-aminium chloride
Combine 1.00 g (4.76 mmole) 1-chloro-2-(4-chloro-2- butenyl)benzene and 1.77 g (4.76 mmole) N,N-diethylheptanamine and heat at 100° C. ca. 20 hrs. Follow the progress of the reaction by TLC on silica gel (acetonitrile: ammonium hydroxide, 9:1). At the completion of the reaction, decant off the top layer of the two phase reaction mixture. Dissolve the bottom layer in 50 ml H2O. Extract with 3×100 ml hexane, 1×25 ml CH2Cl2. Dry CH2Cl2 over MgSO4 and treat with activated charcoal. Evaporate the solvents to provide the title compound.

reactant | 1-chloro-2-(4-chloro-2- butenyl)benzene | 4.76 mmole, 1.00 g | ClC1=C(C=CC=C1)CC=CCCl | C10H10Cl2
reactant | N,N-diethylheptanamine | 4.76 mmole, 1.77 g | C(C)N(CCCCCCC)CC | C11H25N
solvent | H2O | 50 ml | O | H2O
product | N,N-Diethyl-4-(2-chlorophenyl)-N-heptyl-2-buten-1-aminium chloride | [Cl-].C(C)[N+](CC=CCC1=C(C=CC=C1)Cl)(CCCCCCC)CC | InChI=1S/C21H35ClN.ClH/c1-4-7-8-9-13-18-23(5-2,6-3)19-14-12-16-20-15-10-11-17-21(20)22;/h10-12,14-15,17H,4-9,13,16,18-19H2,1-3H3;1H/q+1;/p-1
